US08871782B2
N-(2-{[4-Amino-2-(ethoxymethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-8-yl]oxy}ethyl)tetrahydrofuran-2-carboxamide
A solution of 8-(2-aminoethoxy)-2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine (0.500 g, 1.46 mmol) and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (1.282 g, 2.90 mmol) in dichloromethane (15 mL) was cooled to 0° C. A solution of tetrahydro-2-furoic acid (0.168 g, 1.45 mmol) in dichloromethane (5 mL) and triethylamine (0.811 mL, 5.82 mmol) were sequentially added. The reaction was stirred at 0° C. for 30 minutes, allowed to warm to ambient temperature, stirred for two hours, and poured into water. The aqueous layer was extracted with dichloromethane. The combined organic fractions were washed sequentially with water (2×) and brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluting with dichloromethane:methanol ranging in ratios from 99:1 to 96:4) to provide the desired product and a bis amide by-product. The bis amide by-product was treated with 1N aqueous hydrochloric acid, heated at reflux for 1.5 hours, and cooled to 0° C. The mixture was adjusted to pH 13 with the addition of 10% aqueous sodium hydroxide and extracted with dichloromethane. The combined extracts were washed with water and brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure to provide a yellow oil. The oil and the previously recovered amide were combined and recrystallized from acetonitrile to provide 0.220 g of N-(2-{[4-amino-2-(ethoxymethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-8-yl]oxy}ethyl)tetrahydrofuran-2-carboxamide as a tan, crystalline solid, mp 202.5-204.5° C.

reactant | 8-(2-aminoethoxy)-2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 1.46 mmol, 0.500 g | NCCOC1=CC=2C3=C(C(=NC2C=C1)N)N=C(N3CCC)COCC | C18H25N5O2
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 2.90 mmol, 1.282 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | tetrahydro-2-furoic acid | 1.45 mmol, 0.168 g | O1C(CCC1)C(=O)O | C5H8O3
reactant | triethylamine | 5.82 mmol, 0.811 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-(2-{[4-Amino-2-(ethoxymethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-8-yl]oxy}ethyl)tetrahydrofuran-2-carboxamide | NC1=NC=2C=CC(=CC2C2=C1N=C(N2CCC)COCC)OCCNC(=O)C2OCCC2 | C23H31N5O4
